US04604131
N-(1,1-Dimethylethyl)-2-(methylthio)-6-phenylbenzenesulfonamide (XIIId; R1 =SCH3, R2 =C6H5, R3 =H)
A solution of 11.3 g (0.0436 mol) N-(1,1-dimethylethyl)-2-(methylthio)benzenesulfonamide in 300 ml tetrahydrofuran (THF) was treated with 60.5 ml (0.096 mol) 2M n-butyllithium in hexanes at -30° under a nitrogen atmosphere. The mixture was stirred for 1 hour at ambient temperature then recooled to -20° and treated with 8.3 g (0.0436 mol) of cuprous iodide (anhydrous). After 10 minutes at -15°, 4.9 ml (0.0438 mol) iodobenzene was added and the mixture was then heated to reflux overnight. Acetic acid (10 ml) was added after cooling the mixture to 15°, then 200 ml concentrated ammonium hydroxide plus 200 ml ethyl acetate was introduced and the mixture was stirred vigorously in the presence of air to facilitate removal of the copper salts. The aqueous phase was separated, extracted with more ethyl acetate and the combined organic extracts were washed successively with concentrated ammonium hydroxide, water and brine, then dried (MgSO4) and evaporated to an oil. The product crystallized from ether/hexanes to afford 10 g of material, m.p. 162°-165°.

reactant | N-(1,1-dimethylethyl)-2-(methylthio)benzenesulfonamide | 0.0436 mol, 11.3 g | CC(C)(C)NS(=O)(=O)C1=C(C=CC=C1)SC | C11H17NO2S2
reactant | n-butyllithium | 0.096 mol, 2M, 60.5 ml | C(CCC)[Li]
reactant | iodobenzene | 0.0438 mol, 4.9 ml | IC1=CC=CC=C1 | C6H5I
reactant | ammonium hydroxide | 200 ml | [OH-].[NH4+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | Acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | N-(1,1-Dimethylethyl)-2-(methylthio)-6-phenylbenzenesulfonamide | 10 g | CC(C)(C)NS(=O)(=O)C1=C(C=CC=C1C1=CC=CC=C1)SC | C17H21NO2S2
